US06307087B1
Synthesis of 2-phenylthiophene
An oven dried Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.020 mmol, 2.0 mol %), phenylboron dihydroxide (183 mg, 1.5 mmol), and potassium fluoride (174 mg, 3.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) and 2-bromothiophene (0.097 mL, 1.0 mmol) were added through a rubber septum. The reaction mixture was stirred at room temperature until the starting aryl bromide had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ethyl acetate (30 mL) and poured into a separatory funnel. The mixture was washed with 2.0M NaOH (20 mL). The organic layer was washed with brine (20 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 159 mg (99%) of the title compound.

reactant | phenylboron dihydroxide | 1.5 mmol, 183 mg | [OH-].[OH-].C1(=CC=CC=C1)[B+2]
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
reactant | 2-bromothiophene | 1.0 mmol, 0.097 mL | BrC=1SC=CC1 | C4H3BrS
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.020 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-phenylthiophene | 159 mg, 99% | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
